US09233362B2
(3R,4R)-3-Azido-4-benzyloxy-2,3,4,7-tetrahydroazepin-1-carboxylic acid tert-butylester
A solution of Mo(CHCMe2Ph)(NAr)(OCMe(CF3)2)2(phen) (8 mg, 9 μmol, 5 mol %) and ZnCl2 (1.2 mg, 9 μmol) in CH2Cl2 (18 mL) was heated for 30 min to 100° C. Subsequently, (2R,3R)-allyl-(2-azido-3-benzyloxy-pent-4-enyl)-carbamic acid tert-butylester (66 mg, 0.177 mmol) was added and the mixture was heated for 30 min under reflux. After removal of the solvent, the residue is purified by means of column chromatography at silica gel (hexane/ethylacetate, 20:1). 1H NMR (300 MHz, CD2Cl2): δ=7.40-7.29 (m, 5H), 5.76 (br s, 2H), 4.67 (d, J=11.5 Hz, 1H), 4.55 (d, J=11.5 Hz, 1H), 427-3.97 (m, 2H), 3.85-3.54 (m, 4H), 1.45 (s, 9H); 13C NMR (75 MHz, CD2Cl2): δ=155.1, 138.3, 131.1, 129.8, 128.7, 128.3, 128.1, 80.5, 79.1, 72.3, 64.0, 48.8, 47.5, 28.4; [α]20D=6−26.3 (2.65, CH2Cl2); IR (film, cm−1): 3065, 3031, 2976, 2927, 2857, 2108, 1699, 1657, 1496, 1456, 1393, 1366, 1248, 1168, 1135, 1095, 737, 698 cm−1; MS (EI) m/z: 344 ([M+], <1), 260 (1), 225 (2), 186 (1), 180 (3), 169 (14), 160 (6), 125 (11), 91 (100), 57 (57); HRMS (ESI) (C18H24N4O3+H) calculated: 345.1927. found: 345.1921; C18H24N4O3 (344.41) calculated: C, 62.77; H, 7.02; N, 16.27. found: C, 62.72; H, 6.94; N, 16.19. The obtained data correspond to those of literature (A. Fürstner, O. R Thiel, J. Org. Chem. 2000, 65, 1738).

reactant | (2R,3R)-allyl-(2-azido-3-benzyloxy-pent-4-enyl)-carbamic acid tert-butylester | 0.177 mmol, 66 mg | C(C)(C)(C)OC(N(C[C@H]([C@@H](C=C)OCC1=CC=CC=C1)N=[N+]=[N-])CC=C)=O | C20H28N4O3
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
catalyst | ZnCl2 | 9 μmol, 1.2 mg | [Cl-].[Cl-].[Zn+2]
product | (3R,4R)-3-Azido-4-benzyloxy-2,3,4,7-tetrahydroazepin-1-carboxylic acid tert-butylester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C=CC1)OCC1=CC=CC=C1)N=[N+]=[N-] | C18H24N4O3
